US07759385B2
1-[4-(5-chloro-1H-indol-3-yl)piperidine-1-yl]-2-(4-dimethylamino-4-phenylcyclohexylidene)-ethanone
1-hydroxybenzotriazole (405 mg, 3.0 mmole), 5-chloro-3-piperidine-4-yl-1H indole (352 mg, 1.5 mmole) and N-methylmorpholine (0.333 ml, 3.0 mmole) were added in succession under argon to a solution of (4-dimethylamino-4-phenylcyclohexylidene)-acetic acid (444 mg, 1.5 mmole) in dry dimethylformamide (10 ml). The solution was cooled in an ice bath and dicyclohexylcarbodiimide (618 mg, 3.0 mmole) was added. The reaction mixture was stirred for 7 days at RT, the dicyclohexylurea precipitating out little by little. The reaction mixture was worked up by separating the precipitated urea and adding the filtrate to a mixture of saturated NaCl solution (40 ml) and saturated NaHCO3 solution (10 ml). Oily products thereupon precipitated out, which could not be separated by filtration. The reaction mixture was extracted with DCM (3×50 ml), water (300 ml) and 5M sodium hydroxide (7 ml, 35 mmole) were added to the aqueous phase, and the whole was kept for 16 hours at 5° C. 1-[4-(5-chloro-1H-indol-3-yl)piperidine-1-yl]-2-(4-dimethylamino-4-phenylcyclo-hexylidene)-ethanone thereupon precipitated out as a yellow solid (167 mg, 23%) with an m.p. of 115°-119° C.

reactant | 1-hydroxybenzotriazole | 3.0 mmole, 405 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 5-chloro-3-piperidine-4-yl-1H indole | 1.5 mmole, 352 mg | ClC=1C=C2C(=CNC2=CC1)C1CCNCC1 | C13H15ClN2
reactant | N-methylmorpholine | 3.0 mmole, 0.333 ml | CN1CCOCC1 | C5H11NO
reactant | (4-dimethylamino-4-phenylcyclohexylidene)-acetic acid | 1.5 mmole, 444 mg | CN(C1(CCC(CC1)=CC(=O)O)C1=CC=CC=C1)C | C16H21NO2
reactant | dicyclohexylcarbodiimide | 3.0 mmole, 618 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dicyclohexylurea | C(=O)(NC1CCCCC1)NC1CCCCC1 | C13H24N2O
reactant | sodium hydroxide | 35 mmole, 5M, 7 ml | [OH-].[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
solvent | water | 300 ml | O | H2O
product | 1-[4-(5-chloro-1H-indol-3-yl)piperidine-1-yl]-2-(4-dimethylamino-4-phenylcyclohexylidene)-ethanone | ClC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C(C=C1CCC(CC1)(C1=CC=CC=C1)N(C)C)=O | C29H34ClN3O
